US06166028
3-Chloro-4-trifluoromethyl-nitrobenzene
A solution of 3-chloro-4-iodo-nitrobenzene (2.26 g), trimethyl(trifluoromethyl)silane (5.68 g), copper(I) iodide (2.28 g), and potassium fluoride (0.56 g) in N,N-dimethylformamide (8 mL) is heated in a sealed tube to 80° C. for 40 hours. The solution is then cooled, diluted with diethyl ether, filtered through diatomaceous earth, and the filtrate is washed successively with water, saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate. The solvent is removed under reduced pressure and the residue is chromatographed over silica gel (1% diethyl ether in hexanes followed by 10% ethyl acetate in hexanes is used as the eluant) to provided the desired product as a colorless oil.

reactant | 3-chloro-4-iodo-nitrobenzene | 2.26 g | ClC=1C=C(C=CC1I)[N+](=O)[O-] | C6H3ClINO2
reactant | trimethyl(trifluoromethyl)silane | 5.68 g | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | potassium fluoride | 0.56 g | [F-].[K+]
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | copper(I) iodide | 2.28 g | [Cu]I
product | 3-Chloro-4-trifluoromethyl-nitrobenzene | ClC=1C=C(C=CC1C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
